US07696223B2
a) 4-Hydroxy-1-methyl-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 103(b) from 1-bromo-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester, tetramethyl tin, and bis(triphenylphosphine)-palladium(II) dichloride (Pd(PPh3)2Cl2). The title compound, ESI MS (m/z): 347 (M+H)+.

reactant | 1-bromo-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)Br)C1=CC=CC=C1)O | C20H15BrN2O3
reactant | tetramethyl tin | C[Sn](C)(C)C
catalyst | bis(triphenylphosphine)-palladium(II) dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-1-methyl-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)C)C1=CC=CC=C1)O | C21H18N2O3
